US09062028B2
Step C. 5-Bromo-1-(4-methoxybenzyl)quinolin-2(1H)-one
To a solution of 5-bromoquinolin-2(1H)-one (0.84 g, 2.29 mmol) in DMF (20 mL) at room temperature was added sodium hydride (0.57 g, 14.22 mmol) and 4-methoxybenzyl chloride (1.24 mL, 9.10 mmol). Upon completion of addition, the reaction mixture was stirred at room temperature for 2 d, and then heat to 75° C. where it stirred for 2 h. After cooling to room temperature, the reaction mixture was quenched with water, and extracted with EtOAc. The combined organic layer was washed with brine, dried over anhydrous Na2SO4, filtered, and concentrated. The resulting residue was purified by flash chromatography (0 to 30% ethyl acetate:hexanes) to afford the title compound (0.84 g, 40% yield) as a white powder. LCMS, [M+H]+=344.0. 1H NMR (400 MHz, CDCl3) δ 8.20 (d, J=9.8 Hz, 1H), 7.44 (dd, J=6.6, 2.2 Hz, 1H), 7.28-7.23 (m, 3H), 7.14 (d, J=8.2 Hz, 1H), 6.89 (d, J=9.8 Hz, 1H), 6.83 (d, J=8.6 Hz, 2H), 5.5 (s, 2H), 3.76 (s, 3H).

reactant | 5-bromoquinolin-2(1H)-one | 2.29 mmol, 0.84 g | BrC1=C2C=CC(NC2=CC=C1)=O | C9H6BrNO
reactant | sodium hydride | 14.22 mmol, 0.57 g | [H-].[Na+]
reactant | 4-methoxybenzyl chloride | 9.10 mmol, 1.24 mL | COC1=CC=C(CCl)C=C1 | C8H9ClO
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 5-Bromo-1-(4-methoxybenzyl)quinolin-2(1H)-one | 0.84 g, 40% yield | BrC1=C2C=CC(N(C2=CC=C1)CC1=CC=C(C=C1)OC)=O | C17H14BrNO2
